US04663453
4-Bromo-6-(4-methyl-1-piperazinyl)-9-methylbenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
To a solution of 4-bromo-6-(4-methyl-1-piperazinyl)-9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (5.7 g, 13.8 mmoles) in chloroform (540 ml) was added manganese dioxide (25 gm), and the mixture was heated under reflux for 4 days. The mixture was filtered, and the filter cake washed with dichloromethane. The filtrate was concentrated under vacuum. The residue was purified on a silica gel column, eluted with 2% methanol/dichloromethane. The fractions (75-100 ml each) containing pure product were pooled and concentrated. Recrystallization from a small volume of 2-propanol yielded 2.41 g (42%) of product, mp 153°-155° C.

reactant | 4-bromo-6-(4-methyl-1-piperazinyl)-9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 13.8 mmoles, 5.7 g | BrC=1C=C2C3=C(C(=NC4=C(N3CC2)C=CC(=C4)C)N4CCN(CC4)C)C1 | C21H23BrN4
solvent | chloroform | 540 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 25 gm | [O-2].[O-2].[Mn+4]
product | 4-Bromo-6-(4-methyl-1-piperazinyl)-9-methylbenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 2.41 g, 42% | BrC=1C=C2C3=C(C(=NC4=C(N3C=C2)C=CC(=C4)C)N4CCN(CC4)C)C1 | C21H21BrN4
